US08871753B2
Step A: 2-Chloro-5-methyl-N-(3-vinylphenyl)pyrimidin-4-amine
This compound was prepared according to the procedure of Example A1, step A, using 2,4-dichloro-5-methylpyrimidine and 3-vinylaniline as the starting materials in 39% yield. LCMS calculated for C13H13ClN3 (M+H)+: m/z=246.1.

reactant | 2,4-dichloro-5-methylpyrimidine | ClC1=NC=C(C(=N1)Cl)C | C5H4Cl2N2
reactant | 3-vinylaniline | C(=C)C=1C=C(N)C=CC1 | C8H9N
product | 2-Chloro-5-methyl-N-(3-vinylphenyl)pyrimidin-4-amine | 39% yield | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)C=C)C | C13H12ClN3
